US07772227B2
To a solution of (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid (362 mg, 1.23 mmol) in dichloromethane (20 ml) was added oxalyl chloride (0.215 ml, 2.46 mmol). The deep blue mixture was stirred at room temperature for 2 h and then the solvent was removed in vacuo to afford (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid chloride (380 mg, 1.23 mmol) as a blue solid.

reactant | (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 1.23 mmol, 362 mg | C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)O | C17H19NO3
reactant | oxalyl chloride | 2.46 mmol, 0.215 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid chloride | 1.23 mmol, 380 mg | C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)Cl | C17H18ClNO2
